US06864390B2
Trimethylsilyldiazomethane (31.5 mL of a 2 M solution in hexanes, 63 mmol) was added dropwise to a stirring solution of ((1S,3R)-1-benzyl-3-methyl-cyclopentyl)-acetic acid (10 g, 43 mmol) in toluene (80 mL) and methanol (20 mL) at 0° C. under argon, and the mixture was allowed to warm to room temperature. The mixture was stirred for 1 hour, and then the solvent was evaporated under reduced pressure. The residue was taken up in ethyl acetate (50 mL), washed with saturated sodium hydrogen carbonate solution, dilute hydrochloric acid, dried (MgSO4), and the solvent removed in vacuo to give 10.6 g (100%) of ((1S,3R)-1-benzyl-3-methyl-cyclopentyl)-acetic acid methyl ester;

reactant | Trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | ((1S,3R)-1-benzyl-3-methyl-cyclopentyl)-acetic acid | 43 mmol, 10 g | C(C1=CC=CC=C1)[C@]1(C[C@@H](CC1)C)CC(=O)O | C15H20O2
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 20 mL | CO | CH4O
product | ((1S,3R)-1-benzyl-3-methyl-cyclopentyl)-acetic acid methyl ester | 10.6 g, 100% | COC(C[C@@]1(C[C@@H](CC1)C)CC1=CC=CC=C1)=O | C16H22O2
